US06573293B2
5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic Acid (3-diethylaminopropyl)amide
5-bromo-1,3-dihydroindol-2-one (0.47 g, 2.2 mmol) was condensed with 5-formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (3-diethylaminopropyl)amide (0.75 g) to give 0.11 g (42%) of the title compound as an orange solid.

reactant | 5-bromo-1,3-dihydroindol-2-one | 2.2 mmol, 0.47 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 5-formyl-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic acid (3-diethylaminopropyl)amide | 0.75 g | C(C)N(CCCNC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=O)C)CC | C20H27N3O2
product | 5-(5-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-2-methyl-4-phenyl-1H-pyrrole-3-carboxylic Acid (3-diethylaminopropyl)amide | 0.11 g, 42% | C(C)N(CCCNC(=O)C1=C(NC(=C1C1=CC=CC=C1)C=C1C(NC2=CC=C(C=C12)Br)=O)C)CC | C28H31BrN4O2
